US04620865
A solution of 53.7 g of (3-chlorophenyl)hydrazine hydrochloride, 50.8 g of ethyl(ethoxymethylene)cyanoacetate and 41.4 g of potassium carbonate in 500 ml of ethanol was refluxed for 20 hours. The solution was poured into ice water. The precipitated solid was collected by filtration, dried and recrystallized from ethanol/water to provide 53.0 g of 5-amino-1-(3-chlorophenyl)-1H-pyrazole-4-carboxylic acid, ethyl ester. Yield 67%. mp=115°-117° C.

reactant | (3-chlorophenyl)hydrazine hydrochloride | 53.7 g | Cl.ClC=1C=C(C=CC1)NN
reactant | ethyl(ethoxymethylene)cyanoacetate | 50.8 g | C(C)OC(C(C#N)=COCC)=O | C8H11NO3
reactant | potassium carbonate | 41.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 5-amino-1-(3-chlorophenyl)-1H-pyrazole-4-carboxylic acid, ethyl ester | 53.0 g, Yield 67% | NC1=C(C=NN1C1=CC(=CC=C1)Cl)C(=O)OCC | C12H12ClN3O2
